US04607053
B. Methyl 2-(1-Decenyl)benzoate
To a stirred, cooled (-78° C., dry ice/acetone) solution of nonyltriphenylphosphonium bromide (prepared as described in Example 1 Part A) (12.09 g, 22 mM, 1.2 eq.) in dry THF (125 ml) was added dropwise under argon a 2.5M solution of n-BuLi in hexane (7.32 ml, 18.3 mM, 1 eq.). Twenty minutes after completed addition HMPA (19 ml, 110 mM, 6 eq.) was added followed by dropwise addition of the title A aldehyde (3.0 g, 183 mM) in 25 ml of THF over a 1.5 hour period. The mixture was warmed to 0° C. (ice bath) over a 30 minute period, then added to 200 ml of H2O and extracted (2×) with ethyl acetate. The organic phase was washed with saturated NH4Cl, dried over anhydrous Na2SO4 and evaporated to a thick brown oil. Crude oil was flash chromatographed on LPS-1 silica gel eluting with (8:2) Hex-CH2Cl2. Product containing fractions were evaporated to give 1.65 g (33%) of the desired title Wittig product (mixture of cis and trans isomers obtained) as a clear oil with consistent NMR (CDCl3, 60 MHz) spectral data. TLC (1:1) EtOAc-Hex, Rf product=0.80, UV and PMA, single spot.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | nonyltriphenylphosphonium bromide | [Br-].C(CCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 18.3 mM, 7.32 ml, 1 eq. | CCCCCC | C6H14
reactant | HMPA | 110 mM, 19 ml, 6 eq. | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 200 ml | O | H2O
product | Methyl 2-(1-Decenyl)benzoate | C(=CCCCCCCCC)C1=C(C(=O)OC)C=CC=C1 | C18H26O2
